US08461329B2
To a solution of 4-aminophenyl acetonitrile (1.41 g) in ethanol (5 ml), a solution of di-tert-butyl dicarbonate (3.10 g) in ethanol (5 ml) was added, and the mixed solution was stirred at room temperature for two hours. The precipitate was filtered and dried to give [4-(cyanomethyl)phenyl]carbamic acid 1,1-dimethylethyl ester (984 mg) as a colorless solid.

reactant | 4-aminophenyl acetonitrile | 1.41 g | NC1=CC=C(C=C1)CC#N | C8H8N2
reactant | di-tert-butyl dicarbonate | 3.10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [4-(cyanomethyl)phenyl]carbamic acid 1,1-dimethylethyl ester | 984 mg | CC(C)(C)OC(NC1=CC=C(C=C1)CC#N)=O | C13H16N2O2
